US04608373
In 6 ml of dichloromethane was suspended 500 mg of (Z)-α-(2-tritylamino-4-thiazolyl)-α-[(2-tritylamino-4-thiazolyl)methoxyimino]acetic acid and after cooling the suspension to 3°-4° C. and adding thereto 133 mg of phosphorus pentachloride, the mixture was stirred for 15 minutes at 3°-4° C. On the other hand, 316 mg of 7-amino-3-(1-methyl-5-tetrazolyl)thiomethyl-3-cephem-4-carboxylic acid benzhydryl ester was dissolved in 6 ml of dichloromethane. After cooling the solution to -35° C. and adding 500 mg of pyridine, the foregoing dichloromethane solution containing acid chloride was added dropwise to the solution. Thereafter, the mixture was stirred for 15 minutes at -20° C. to -30° C., 20 ml of ice water was added to the reaction solution, the pH of the solution was adjusted to 1-2 with 1N hydrochloric acid, and the dichloromethane layer thus formed was separated. The dichloromethane layer was washed with water, dried (over anhydrous magnesium sulfate), and concentrated. The residue thus formed was applied to column chromatography and it was eluted with benzene and then with a mixture of benzene and ethyl acetate (5:1) to provide 510 mg of (Z)-7-{α-(2-tritylamino-4-thiazolyl)-α-[(2-tritylamino-4-thiazolyl)methoxyimino]acetamido}-3-[(1-methyl-5-tetrazolyl)thiomethyl]-3-cephem-4-carboxylic acid benzhydryl ester.

reactant | (Z)-α-(2-tritylamino-4-thiazolyl)-α-[(2-tritylamino-4-thiazolyl)methoxyimino]acetic acid | 500 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)/C(/C(=O)O)=N/OCC=1N=C(SC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C47H37N5O3S2
reactant | phosphorus pentachloride | 133 mg | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | 7-amino-3-(1-methyl-5-tetrazolyl)thiomethyl-3-cephem-4-carboxylic acid benzhydryl ester | 316 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C1=C(CS[C@H]2N1C(C2N)=O)CSC2=NN=NN2C | C23H22N6O3S2
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | dichloromethane | 6 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 6 ml | ClCCl | CH2Cl2
solvent | pyridine | 500 mg | N1=CC=CC=C1 | C5H5N
product | (Z)-7-{α-(2-tritylamino-4-thiazolyl)-α-[(2-tritylamino-4-thiazolyl)methoxyimino]acetamido}-3-[(1-methyl-5-tetrazolyl)thiomethyl]-3-cephem-4-carboxylic acid benzhydryl ester | 510 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C1=C(CS[C@H]2N1C(C2NC(\C(=N/OCC=2N=C(SC2)NC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)\C=2N=C(SC2)NC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O)=O)CSC2=NN=NN2C | C70H57N11O5S4
